US06417366B2
To a 500-mL three-necked round-bottom flask equipped with an overhead mechanical stirrer was charged 3-(3-quinolyl)-2-propen-1-ol (13.03 g, 70.43 mmol) as a mixture of cis- and trans- isomers (81% cis, and 19% trans), di-tert butyl dicarbonate (16.91 g, 77.48 mmol, 1.11 equiv), tetra n-butylammonium hydrogen sulfate (742 mg, 2.17 mmol) and methylene chloride (135 mL). The stirred mixture which resulted was cooled to 0 to 5° C. at which time aqueous 25% sodium hydroxide (33.3 mL) was added over 45 minutes such that the internal temperature did not rise above 20° C. Upon completion of the reaction (1 to 4 hours) as indicated by TLC (3:2 ethyl acetate/heptane), the reaction mixture was diluted with methylene chloride (50 mL) and washed with water (2×125 mL). The organic was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to provide the 3-(3-quinolyl)-2-propen-1-ol-t-butyl carbonate: 18.35g, 91.4% as an oil. This material can be further purified to remove lower Rf impurities by eluting through a plug of silica gel with heptane/acetone/triethylamine (9:1:0.1). The product eluant is then concentrated under reduced pressure and further dried by the azeodistillation of ethyl acetate. This procedure provides the purified carbonate as a colorless oil which retains the original ratio of cis and trans isomers: 17.50 g, 87.2%.

reactant | 3-(3-quinolyl)-2-propen-1-ol | 70.43 mmol, 13.03 g | N1=CC(=CC2=CC=CC=C12)C=CCO | C12H11NO
reactant | di-tert butyl dicarbonate | 77.48 mmol, 16.91 g, 1.11 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 33.3 mL | [OH-].[Na+]
reactant | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
catalyst | tetra n-butylammonium hydrogen sulfate | 2.17 mmol, 742 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 135 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-quinolyl)-2-propen-1-ol t-butyl carbonate | N1=CC(=CC2=CC=CC=C12)C=CCO.C(OC(C)(C)C)([O-])=O | InChI=1S/C12H11NO.C5H10O3/c14-7-3-4-10-8-11-5-1-2-6-12(11)13-9-10;1-5(2,3)8-4(6)7/h1-6,8-9,14H,7H2;1-3H3,(H,6,7)/p-1
